US07034023B2
Step 2: Preparation of 2-[2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)-dione
A mixture of the 4-(4-methoxy-2-methylphenyl)-3-methyl-4-oxobutanal (0.31 g, 1.40 mmol) and N-aminophthalimide (0.28 g, 1.55 mmol) in HCl (5N, 0.15 mL) and dioxane (10.0 mL) was refluxed for 2 h. After cooling down to room temperature, the mixture was concentrated in vacuo and the residue was subjected to column chromatography (silica gel, 1/9 EtOAc/heptane) to give 0.42 g (86%) of pale yellow solid as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.91–7.89 (m, 1H), 7.81–7.73 (m, 3H), 7.09 (d, J=8 Hz, 1H), 6.74–6.72 (m, 2H), 6.58 (dd, J=3, 8 Hz, 1H), 6.29 (s, 1H), 3.73 (s, 3H), 2.23 (s, 3H), 1.97 (s, 3H); MS m/z 347.1 (M++H).

reactant | 4-(4-methoxy-2-methylphenyl)-3-methyl-4-oxobutanal | 1.40 mmol, 0.31 g | COC1=CC(=C(C=C1)C(C(CC=O)C)=O)C | C13H16O3
reactant | N-aminophthalimide | 1.55 mmol, 0.28 g | NN1C(C=2C(C1=O)=CC=CC2)=O | C8H6N2O2
solvent | HCl | 5N, 0.15 mL | Cl | ClH
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)-dione | 0.42 g, 86% | COC1=CC(=C(C=C1)C=1N(C=CC1C)N1C(C2=CC=CC=C2C1=O)=O)C | C21H18N2O3
